US04970213
A stirred suspension of 5.27 g of ethyl 2-(2-chloro-6,7-difluoro quinoline-3-carbonyl)-3-cyclopropylaminoacrylate in 2.22 g of 1,8-diazabicyclo[5.4.0]undec-7-ene (DBU) and 120 cm3 of ethanol is heated at a temperature close to 75° C. for 35 minutes. After cooling to about 20° C., the reaction mixture is taken up in 100 cm3 of water and extracted with once 100 cm3 and twice 50 cm3 of trichloromethane. The combined organic extracts are washed with 3 times 50 cm3 of water, dried over magnesium sulphate, filtered and concentrated under reduced pressure (20 kPa) at a temperature close to 20° C. The dry extract obtained is taken up in 30 cm3 of diisopropyl ether, drained and recrystallized from a mixture of 75 cm3 of ethanol and 75 cm3 of dimethylformamide. 3.57 g of 1 -cyclopropyl-3-ethoxycarbonyl-7,8-di fluoro-4-oxo-1,4-dihydro-benzo[b][1,8]naphthyridine are obtained in the form of a yellow solid melting at 229°-230° C.

reactant | ethyl 2-(2-chloro-6,7-difluoro quinoline-3-carbonyl)-3-cyclopropylaminoacrylate | 5.27 g | ClC1=NC2=CC(=C(C=C2C=C1C(=O)C(C(=O)OCC)=CNC1CC1)F)F | C18H15ClF2N2O3
solvent | 1,8-diazabicyclo[5.4.0]undec-7-ene | 2.22 g | N12CCCCCC2=NCCC1 | C9H16N2
solvent | ethanol | 120 cm3 | C(C)O | C2H6O
solvent | water | 100 cm3 | O | H2O
solvent | diisopropyl ether | 30 cm3 | C(C)(C)OC(C)C | C6H14O
product | 1 -cyclopropyl-3-ethoxycarbonyl-7,8-di fluoro-4-oxo-1,4-dihydro-benzo[b][1,8]naphthyridine | 3.57 g | C1(CC1)N1C=C(C(C=2C=C3C(=NC12)C=C(C(=C3)F)F)=O)C(=O)OCC | C18H14F2N2O3
